US08222246B2
d) 6-[3-(3,4-Difluoro-phenyl)-5-formyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester
6-[3-(3,4-Difluoro-phenyl)-5-([E]-styryl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (5.0 g, 11.2 mmol), osmium(VIII) oxide (70.9 mg, 0.28 mmol), sodium metaperiodate (9.54 mg, 44.6 mmol), benzyltriethylammonium chloride (1.04 mg, 4.46 mmol) in dioxane (75 mL) and water (25 mL) were heated for 15 min at 120° C. in a microwave. Addition of water and extraction with ethyl acetate and chromatography (silica, ethyl acetate:heptane=1:4 to 1:1) afforded the title compound (2.54 g, 61%) as a white solid. MS: m/e=375.1 [M+H]+.

reactant | 6-[3-(3,4-Difluoro-phenyl)-5-([E]-styryl)-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 11.2 mmol, 5.0 g | COC(C1=CN=C(C=C1)OCC=1C(=NOC1\C=C\C1=CC=CC=C1)C1=CC(=C(C=C1)F)F)=O | C25H18F2N2O4
reactant | sodium metaperiodate | 44.6 mmol, 9.54 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | heptane | CCCCCCC | C7H16
catalyst | benzyltriethylammonium chloride | 4.46 mmol, 1.04 mg | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
solvent | water | 25 mL | O | H2O
catalyst | osmium(VIII) oxide | 0.28 mmol, 70.9 mg | [Os](=O)(=O)(=O)=O
product | 6-[3-(3,4-Difluoro-phenyl)-5-formyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 2.54 g, 61% | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C=O)C1=CC(=C(C=C1)F)F)=O | C18H12F2N2O5
